US09212187B2
N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-(3-methyl-2-oxo-2,3-dihydrobenzoimidazol-1-yl)-N-(2-pyridin-3-ylethyl)acetamide hydrochloride
N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-(2-oxo-2,3-dihydrobenzoimidazol-1-yl)-N-(2-pyridin-3-ylethyl)acetamide hydrochloride(0.26 g), cesium carbonate(0.43 g), and methyl iodide(0.04 ml) were added to DMF(5 ml), and the mixture was stirred at room temperature for 1 days. Water was added to the reaction mixture, and stirred for 1 hour, followed by extraction with ethyl acetate. The organic layer was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate: methanol=85:15). The purified product was condensed under reduced pressure. A 1N-hydrogen chloride in ethanol solution(0.44 ml) was added to a 2-propanol solution (5 ml) of the residue, and the liquid was stirred at room temperature, and concentrated under reduced pressure. Ethanol and ether were added to the residue. The precipitated insoluble matter was separated, washed with ether, and dried to give the title compound(0.20 g) as a white powder.

reactant | N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-(2-oxo-2,3-dihydrobenzoimidazol-1-yl)-N-(2-pyridin-3-ylethyl)acetamide hydrochloride | 0.26 g | Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(C(CN2C(NC1=C2C=CC=C1)=O)=O)CCC=1C=NC=CC1
reactant | cesium carbonate | 0.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.04 ml | CI | CH3I
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 0.44 ml | C(C)O | C2H6O
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
solvent | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-(3-methyl-2-oxo-2,3-dihydrobenzoimidazol-1-yl)-N-(2-pyridin-3-ylethyl)acetamide hydrochloride | 0.20 g | Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(C(CN2C(N(C1=C2C=CC=C1)C)=O)=O)CCC=1C=NC=CC1 | InChI=1S/C32H36N6O4.ClH/c1-6-37-26-14-13-23(18-27(26)34(4)29(40)32(2,3)30(37)41)20-36(17-15-22-10-9-16-33-19-22)28(39)21-38-25-12-8-7-11-24(25)35(5)31(38)42;/h7-14,16,18-19H,6,15,17,20-21H2,1-5H3;1H
